US08629282B2
4-Oxochroman-7-carbonitrile (11.0 g, 63.5 mmol) was dissolved in THF (250 mL) and cooled to −30° C. prior to the addition of LiHMDS (66.7 mL, 66.7 mmol) dropwise. The resulting solution was stirred for 20 min. Next, the temperature was lowered to −78° C. and the solution was stirred for 0.5 h. In another flask, NBS (11.3 g, 63.5 mmol) was dissolved in THF (250 mL) and cooled to −78° C. Then the anion solution was transferred into NBS/THF solution at −78° C. via cannula. The resulting solution was stirred at −78° C. for 40 min. The reaction was quenched with aqueous saturated NH4Cl solution and extracted with EtOAc twice. The combined organic layers were washed with 1N HCl, brine, dried (MgSO4), and filtered. The filtrate was concentrated and the resulting residue was purified by flash chromatography with 10% to 20% EtOAc/hexane on 120 g ISCO column to afford 3-bromo-4-oxochroman-7-carbonitrile (10.0 g, 39.7 mmol, 62.5% yield) as a pale yellow solid: LCMS=251.9 [M+H]+.

reactant | 4-Oxochroman-7-carbonitrile | 63.5 mmol, 11.0 g | O=C1CCOC2=CC(=CC=C12)C#N | C10H7NO2
reactant | LiHMDS | 66.7 mmol, 66.7 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | NBS | 63.5 mmol, 11.3 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NBS THF | C1CC(=O)N(C1=O)Br.C1CCOC1
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 3-bromo-4-oxochroman-7-carbonitrile | 39.7 mmol, 10.0 g, 62.5% yield | BrC1COC2=CC(=CC=C2C1=O)C#N | C10H6BrNO2
